US06774258B2
By following the procedure of Synthesis Example 2 except that 1-(3-hydroxypropyl)cyclopentanol was used instead of 4-methyl-1,4-pentanediol and methyl 8-tetracyclo-[4.4.0.12,5.17,10]dodecene-3-carboxylate used instead of methyl 5-norbornene-2-carboxylate, there was obtained 3-(1-hydroxycyclopentyl)propyl 8-tetracyclo[4.4.0.12,5.17,10]-dodecene-3-carboxylate. Yield 88%.

reactant | 1-(3-hydroxypropyl)cyclopentanol | OCCCC1(CCCC1)O | C8H16O2
reactant | methyl 8-tetracyclo-[4.4.0.12,5.17,10]dodecene-3-carboxylate | C12C3C(CC(C2C2C=CC1C2)C3)C(=O)OC | C14H18O2
product | 3-(1-hydroxycyclopentyl)propyl 8-tetracyclo[4.4.0.12,5.17,10]-dodecene-3-carboxylate | Yield 88% | C12C3C(CC(C2C2C=CC1C2)C3)C(=O)OCCCC3(CCCC3)O | C21H30O3
